US05112834
40. (+)-(1S,2S)-3-cyanomethyl-2-methyl-8-(2-hydroxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine
750 mg 3-cyanomethyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine are reacted, analogously to the method described in Example 21, with 210 mg (-)-1R,2S-indenoxide and 400 mg triethylamine in aqueous methanol (60 ml methanol+15 ml water) at room temperature. After 3 days the solution is evaporated and the residue taken up in 50 ml water. The precipitate is filtered off and purified by chromatography over silica gel (mobile phase: ethyl acetate/methanol=10:1). After evaporation the residue is precipitated from methylene chloride/cyclohexane. 120 mg of the title compound is isolated. [α]D22 =+113° (c=1, chloroform).

reactant | 3-cyanomethyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine | 750 mg | C(#N)CC1=C(N=C2N1C=CC=C2O)C | C10H9N3O
reactant | triethylamine | 400 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 60 ml | CO | CH4O
product | (+)-(1S,2S)-3-cyanomethyl-2-methyl-8-(2-hydroxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine | 120 mg | C(#N)CC1=C(N=C2N1C=CC=C2O[C@@H]2[C@H](CC1=CC=CC=C21)O)C | C19H17N3O2
